US04536395
Diethylphosphoryl-ε-carbobenzoxy-L-lysyl-L-prolyl-L-proline benzyl ester (2.48 g, 3.5 mmole) was dissolved in methanol (25 ml), and calcium hydroxide (0.133 g) suspended in water (10 ml) was added thereto. The catalytic reduction reaction was carried out in the presence of 5% palladium-carbon as catalyst. The catalyst was removed by filtration and the solvent was distilled off under reduced pressure. The thus obtained milk-white and candy-like residue was dissolved in water. After removal of insoluble matter by filtration, the solution was freeze-dried to obtain diethylphosphoryl-L-lysyl-L-prolyl-L-proline calcium salt (1.54 g, yield: 87.8%).

reactant | Diethylphosphoryl-ε-carbobenzoxy-L-lysyl-L-prolyl-L-proline benzyl ester | 3.5 mmole, 2.48 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NP(=O)(CC)CC)CCCC(N)C(=O)OCC1=CC=CC=C1)=O)=O)=O | C35H49N4O7P
reactant | calcium hydroxide | 0.133 g | [OH-].[Ca+2].[OH-]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | palladium-carbon | [C].[Pd]
product | diethylphosphoryl-L-lysyl-L-prolyl-L-proline calcium salt | 1.54 g, yield: 87.8% | [Ca+2].C(C)P(=O)(CC)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)[O-])CCC2)CCC1.C(C)P(=O)(CC)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)[O-])CCC2)CCC1 | InChI=1S/2C20H37N4O5P.Ca/c2*1-3-30(29,4-2)22-15(9-5-6-12-21)18(25)23-13-7-10-16(23)19(26)24-14-8-11-17(24)20(27)28;/h2*15-17H,3-14,21H2,1-2H3,(H,22,29)(H,27,28);/q;;+2/p-2/t2*15-,16-,17-;/m00./s1
